US05075319
d) Ethyl 2-(4-bromo-2,3,5,6-tetrafluorobenzoyl)-3-dimethylaminopropenoate [XIII; Alk=C2H5 ]
Dimethylformamide dimethylacetal (11.85 g) was added to a solution of 33.63 g ethyl 4-bromo-2,3,5,6-tetrafluorobenzoylacetate in 100 ml tetrahydrofuran cooled in an ice-bath. The reaction mixture was then immersed in a warm water bath in order to drive it to completion. The resulting solution was used directly in the next reaction.

reactant | Dimethylformamide dimethylacetal | 11.85 g | COC(N(C)C)OC | C5H13NO2
reactant | ethyl 4-bromo-2,3,5,6-tetrafluorobenzoylacetate | 33.63 g | BrC1=C(C(=C(C(=O)CC(=O)OCC)C(=C1F)F)F)F | C11H7BrF4O3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl 2-(4-bromo-2,3,5,6-tetrafluorobenzoyl)-3-dimethylaminopropenoate | BrC1=C(C(=C(C(=O)C(C(=O)OCC)=CN(C)C)C(=C1F)F)F)F | C14H12BrF4NO3
